US05089507
1-ethoxy carbonyl-3,3-dimethyl pipecolic acid
To a stirred solution of 5 g (0.031 moles) of 3,3-dimethyl pipecolic acid and 4.44 g (0.033 moles) of potassium carbonate in 45 ml of water at 0° C., were added dropwise 3.61 g (0.033 moles) of ethyl chloroformate. After the addition was completed the solution was allowed to reach room temperature and stirring was continued for 4 hours. This solution was washed with 30 ml of methylene chloride, then brought to acidic pH with 10% HCl and extracted with methylene chloride. The organic extracts were dried and evaporated in vacuo to yield 4.4 g of the title compound.

reactant | 3,3-dimethyl pipecolic acid | 0.031 moles, 5 g | CC1(C(NCCC1)C(=O)O)C | C8H15NO2
reactant | potassium carbonate | 0.033 moles, 4.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroformate | 0.033 moles, 3.61 g | ClC(=O)OCC | C3H5ClO2
solvent | water | 45 ml | O | H2O
product | 1-ethoxy carbonyl-3,3-dimethyl pipecolic acid | 4.4 g | C(C)OC(=O)N1C(C(=O)O)C(CCC1)(C)C | C11H19NO4
